US08754100B2
Synthesis of 5-(1-fluorocyclopropyl)-2-methoxybenzaldehyde
n-Butyllithium (2.7M solution in hexane, 3.42 ml) was added at −78° C. to a solution of 2-bromo-4-(1-fluorocyclopropyl)-1-methoxybenzene (1.88 g) in THF (62 ml), followed by addition of a solution of DMF (650 μl) in THF. After the reaction mixture was stirred at −78° C. for 30 minutes, a saturated aqueous solution of sodium bicarbonate was added to the reaction mixture and extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (1.00 g).

reactant | n-Butyllithium | 2.7M, 3.42 ml | C(CCC)[Li]
reactant | 2-bromo-4-(1-fluorocyclopropyl)-1-methoxybenzene | 1.88 g | BrC1=C(C=CC(=C1)C1(CC1)F)OC | C10H10BrFO
reactant | DMF | 650 μl | CN(C)C=O | C3H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 62 ml | C1CCOC1 | C4H8O
product | 5-(1-fluorocyclopropyl)-2-methoxybenzaldehyde | 1.00 g | FC1(CC1)C=1C=CC(=C(C=O)C1)OC | C11H11FO2
